US04264497
3 g of 2,3-dihydro-3-hydroxymethyl-2-(p-tolyl)-1,5-benzothiazepin-4(5H)-one prepared as described in Reference Example 3 was dissolved in 15 ml of pyridine. 1.3 g of methanesulfonyl chloride was added to the solution and the mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture and the precipitated crystals were separated by filtration and recrystallized from dichloromethane-n-hexane to obtain 3.3 g of 2,3-dihydro-3-[(methylsulfonyloxy)methyl]-2-(p-tolyl)-1,5-benzothiazepin-4(5H)-one as colorless needles having a melting point of 207° C.

reactant | 2,3-dihydro-3-hydroxymethyl-2-(p-tolyl)-1,5-benzothiazepin-4(5H)-one | 3 g | OCC1C(SC2=C(NC1=O)C=CC=C2)C2=CC=C(C=C2)C | C17H17NO2S
reactant | methanesulfonyl chloride | 1.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dihydro-3-[(methylsulfonyloxy)methyl]-2-(p-tolyl)-1,5-benzothiazepin-4(5H)-one | 3.3 g | CS(=O)(=O)OCC1C(SC2=C(NC1=O)C=CC=C2)C2=CC=C(C=C2)C | C18H19NO4S2
